US05100460
Methyl phenyl sulphone (12.5 g, 0.08 mole) dissolved in THF (150 cc) is added at ambient temperature to a molar solution (100 cc) of ethylmagnesium bromide. The mixture is stirred for 1 h and then cooled to -50° C. 2-Chloroacetophenone (12.5 g, 0.08 mole) dissolved in THF (150 cc) is run in and stirred for 2 h at -20° C. The mixture is poured into normal hydrochloric acid (200 cc) and ammonium chloride (6 g). It is reextracted with ether (3×50 cc), washed until neutral and dried over MgSO4. The crude is precipitated with heptane and recrystallized from isopropyl ether to give flocculent white crystals of 1-chloro-2-phenyl-3-phenylsulphonyl-2-propanol (6.5 g, 26%). Mp=110° C.

reactant | Methyl phenyl sulphone | 0.08 mole, 12.5 g | C1(=CC=CC=C1)S(=O)(=O)C | C7H8O2S
reactant | ethylmagnesium bromide | 100 cc | C(C)[Mg]Br
reactant | 2-Chloroacetophenone | 0.08 mole, 12.5 g | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | hydrochloric acid | 200 cc | Cl | ClH
reactant | ammonium chloride | 6 g | [Cl-].[NH4+]
solvent | THF | 150 cc | C1CCOC1 | C4H8O
solvent | THF | 150 cc | C1CCOC1 | C4H8O
solvent | ether | 50 cc | CCOCC | C4H10O
product | 1-chloro-2-phenyl-3-phenylsulphonyl-2-propanol | 6.5 g, 26% | ClCC(CS(=O)(=O)C1=CC=CC=C1)(O)C1=CC=CC=C1 | C15H15ClO3S
